US07435837B2
Treatment of (+)-benzyl {[7-(2,4-dimethoxyphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl}carbamate (0.660 g, 1.57 mmol) with palladium on carbon (0.066 g, 10 wt. %) generally according to the procedure described for Example 1 afforded 0.242 g (48%) of (−)-1-[7-(2,4-dimethoxyphenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine as a pale yellow solid, hydrochloride salt. [α]D25=−4.7 (c 10.0 in methanol); mp 166-168° C.; Anal. calcd. for C17H19NO3HCl: C, 63.45; H, 6.26; N, 4.35. Found: C, 60.84; H, 6.51; N, 3.98.

reactant | (+)-benzyl {[7-(2,4-dimethoxyphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl}carbamate | 1.57 mmol, 0.660 g | COC1=C(C=CC(=C1)OC)C1=CC=CC=2CC(OC21)CNC(OCC2=CC=CC=C2)=O | C25H25NO5
catalyst | palladium on carbon | 0.066 g | [Pd] | Pd
product | (−)-1-[7-(2,4-dimethoxyphenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine | 0.242 g, 48% | COC1=C(C=CC(=C1)OC)C1=CC=CC=2CC(OC21)CN | C17H19NO3
